US09029591B2
Dinitroethane (12 g, 0.10 mol) and potassium hydroxide (6 g, 0.11 mol) were dissolved in 100 mL of water to form a first solution. 500 mL of water was added to the first solution to dissolve a salt remaining in the first solution to form a second solution. Butyl acrylate (36 mL, 0.25 mol) was mixed with 300 mL of methanol, and then the mixture was slowly added to the second solution to form a third solution. The third solution was stirred at room temperature for 3 hours. The reaction product was extracted by diethyl ether, and was then distilled under reduced pressure to obtain yellow liquid butyl 4,4-dinitropentanoate (21.5 g, yield: 87%).

reactant | Dinitroethane | 0.10 mol, 12 g | [N+](=O)([O-])C(C)[N+](=O)[O-] | C2H4N2O4
reactant | potassium hydroxide | 0.11 mol, 6 g | [OH-].[K+]
reactant | Butyl acrylate | 0.25 mol, 36 mL | C(C=C)(=O)OCCCC | C7H12O2
reactant | methanol | 300 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
solvent | water | 500 mL | O | H2O
product | butyl 4,4-dinitropentanoate | 21.5 g, yield: 87% | [N+](=O)([O-])C(CCC(=O)OCCCC)(C)[N+](=O)[O-] | C9H16N2O6
